US08937082B2
Nilotinib base (0.300 g, 0.57 mmol) was dissolved in TFE (2 mL) at 40° C. to obtain a mixture. The mixture was stirred and added to a solution of (S)-camphor-sulfonic acid (0.132 g, 0.57 mmol) in TFE (1 mL) at 40° C. The resulting clear solution was stirred for about 4 h at 40° C. and it was subsequently cooled to 5° C. The mixture was kept at 5° C. overnight and then MTBE (1.5 v/v) was added to the mixture at room temperature leading to precipitation. The precipitate was filtered and the filter cake was dried at 40° C. in a vacuum oven overnight to give Nilotinib camphorsulfonate form I.

reactant | Nilotinib | 0.57 mmol, 0.300 g | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | (S)-camphor-sulfonic acid | 0.57 mmol, 0.132 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | MTBE | CC(C)(C)OC | C5H12O
product | Nilotinib camphorsulfonate | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/C28H22F3N7O.C10H16O4S/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h3-16H,1-2H3,(H,35,39)(H,33,36,37);7H,3-6H2,1-2H3,(H,12,13,14)/p-1
